US07935815B2
Synthesis of (2-difluoromethoxyphenyl)acetonitrile
A solution of p-toluenesulfonylmethyl isocyanide (2.4 g) in dimethoxyethane (10 mL) was added to a solution of potassium tert-butoxide (2.68 g) in dimethoxyethane (30 mL) at −35° C., and the reaction solution was stirred at the same temperature for 10 minutes. The reaction solution was cooled to −55° C. A solution of difluoromethoxybenzaldehyde (2 g) in dimethoxyethane (5 mL) was added dropwise, and the reaction solution was stirred at the same temperature for two hours. 10 mL of methanol was added to the reaction solution, and the reaction solution was heated under reflux for 15 minutes. The reaction solution was left to cool to room temperature. Then, water and dichloromethane were added and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 1.45 g of the title compound. The property values of the compound are as follows.

reactant | p-toluenesulfonylmethyl isocyanide | 2.4 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | potassium tert-butoxide | 2.68 g | CC(C)([O-])C.[K+]
reactant | difluoromethoxybenzaldehyde | 2 g | FC(OC1=C(C=O)C=CC=C1)F | C8H6F2O2
reactant | methanol | 10 mL | CO | CH4O
solvent | dimethoxyethane | 10 mL | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 30 mL | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 5 mL | C(OC)COC | C4H10O2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (2-difluoromethoxyphenyl)acetonitrile | 1.45 g | FC(OC1=C(C=CC=C1)CC#N)F | C9H7F2NO
